### PR TITLE
Finalize the renaming of lemmas in archimedean.v

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

This PR finalizes the renaming and change of the statements of some lemmas in archimedean.v, cf. #1359.

##### Minimal TODO list

- [ ] added changelog entries with `doc/changelog/make-entry.sh`

- [ ] added corresponding documentation in the headers
- [ ] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [ ] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

**Comment by pi8027** [comment]
> Arg, apparently we need an overlay in analysis, let me know if you want me to prepare it.

@proux01 Yes, that would be helpful.

File: algebra/archimedean.v [hunk 1]
```diff
@@ -466,19 +459,15 @@ Qed.
 
 (* TODO: rename to real_ceil_le_int,
    once the currently deprecated one has been removed *)
```
Comment (pi8027) [inline algebra/archimedean.v]:
```suggestion
```

**Comment by pi8027** [comment]
```
File "./classical/mathcomp_extra.v", line 395, characters 7-21:
Error: Cannot apply lemma le_ceil
```
@proux01 You probably need to use the `tmp` lemmas that are already present in the master branch of MC.

File: algebra/archimedean.v [hunk 2]
```diff
@@ -758,13 +743,16 @@ Notation real_lt_succ_floor := real_floorD1_gt.
 Notation real_gt_pred_ceil := real_floorD1_gt.
 #[deprecated(since="mathcomp 2.4.0", note="Renamed to real_ceil_ge.")]
 Notation real_le_ceil := real_ceil_ge.
-#[deprecated(since="mathcomp 2.4.0", note="Renamed to le_floor.")]
-Notation floor_le := le_floor.
 #[deprecated(since="mathcomp 2.4.0", note="Renamed to le_ceil.")]
```
Comment (pi8027) [inline algebra/archimedean.v:746]:
```suggestion
#[deprecated(since="mathcomp 2.5.0", note="Renamed to le_ceil.")]
```

File: algebra/archimedean.v [hunk 3]
```diff
@@ -881,14 +856,17 @@ Proof. exact: real_ceil_floor. Qed.
 
 End ArchiRealDomainTheory.
 
-#[deprecated(since="mathcomp 2.4.0", note="Renamed to floor_le_tmp.")]
-Notation ge_floor := floor_le_tmp.
+#[deprecated(since="mathcomp 2.4.0", note="Renamed to floor_le.")]
```
Comment (pi8027) [inline algebra/archimedean.v:861]:
```suggestion
#[deprecated(since="mathcomp 2.5.0", note="Renamed to floor_le.")]
```

**Comment by pi8027** [comment]
I fixed a few issues, added the changelog entry, and removed the MCA overlay.

File: algebra/archimedean.v [hunk 4]
```diff
@@ -336,23 +336,16 @@ move: (ger_real lemx); rewrite realz => /real_floor_itv/andP[lefx ltxf1].
...
-  x \is real_num -> (n <= floor x) = (n%:~R <= x).
+Lemma real_floor_ge_int x n : x \is real_num -> (n <= floor x) = (n%:~R <= x).
 Proof.
 move=> /real_floor_itv /andP[lefx ltxf1]; apply/idP/idP => lenx.
   by apply: le_trans lefx; rewrite ler_int.
 by rewrite -ltzD1 -(ltr_int R); apply: le_lt_trans ltxf1.
 Qed.
 
-#[deprecated(since="mathcomp 2.4.0", note="Use real_floor_ge_int_tmp instead.")]
-Lemma real_floor_ge_int x n : x \is real_num -> (n%:~R <= x) = (n <= floor x).
```
Comment (proux01) [inline algebra/archimedean.v:350]: Shouldn't we have a "removed" entry in changelog for these?

File: algebra/archimedean.v [hunk 5]
```diff
@@ -464,21 +457,15 @@ rewrite -ltrN2 -lerN2 andbC -!intrN opprD opprK ceilNfloor.
...
-Lemma real_ceil_le_int_tmp x n : x \is real_num -> (ceil x <= n) = (x <= n%:~R).
+Lemma real_ceil_le_int x n : x \is real_num -> (ceil x <= n) = (x <= n%:~R).
 Proof.
-rewrite ceilNfloor lerNl -realN => /real_floor_ge_int_tmp ->.
+rewrite ceilNfloor lerNl -realN => /real_floor_ge_int ->.
 by rewrite intrN lerN2.
 Qed.
 
-#[deprecated(since="mathcomp 2.4.0", note="Use real_ceil_le_int_tmp instead.")]
-Lemma real_ceil_le_int x n : x \is real_num -> x <= n%:~R = (ceil x <= n).
```
Comment (proux01) [inline algebra/archimedean.v:476]: "removed" entry in changelog?

File: algebra/archimedean.v [hunk 6]
```diff
@@ -808,20 +796,13 @@ Proof. exact: real_truncn_le_nat. Qed.
...
 
-(* TODO: rename to floor_le, once the deprecated one has been removed *)
-Lemma floor_le_tmp x : (floor x)%:~R <= x. Proof. exact: real_floor_le. Qed.
+Lemma floor_le x : (floor x)%:~R <= x. Proof. exact: real_floor_le. Qed.
 
 Lemma floorD1_gt x : x < (floor x + 1)%:~R.
 Proof. exact: real_floorD1_gt. Qed.
 
-#[deprecated(since="mathcomp 2.4.0", note="Use floor_ge_int_tmp instead.")]
-Lemma floor_ge_int x n : n%:~R <= x = (n <= floor x).
```
Comment (proux01) [inline algebra/archimedean.v:818]: "removed" entry?

File: algebra/archimedean.v [hunk 7]
```diff
@@ -849,14 +830,8 @@ Proof. exact: real_ceilB1_lt. Qed.
 
 Lemma ceil_ge x : x <= (ceil x)%:~R. Proof. exact: real_ceil_ge. Qed.
 
-#[deprecated(since="mathcomp 2.4.0", note="Use ceil_le_int_tmp instead.")]
-Lemma ceil_le_int x n : x <= n%:~R = (ceil x <= n).
```
Comment (proux01) [inline algebra/archimedean.v:853]: "removed" entry?

File: algebra/archimedean.v [hunk 8]
```diff
@@ -881,14 +856,17 @@ Proof. exact: real_ceil_floor. Qed.
 
 End ArchiRealDomainTheory.
 
-#[deprecated(since="mathcomp 2.4.0", note="Renamed to floor_le_tmp.")]
-Notation ge_floor := floor_le_tmp.
```
Comment (proux01) [inline algebra/archimedean.v:885]: According to our deprecation policy, we should probably keep this one a bit longer (and just redirect it to `floor_le`)

File: algebra/archimedean.v [hunk 9]
```diff
@@ -881,14 +856,17 @@ Proof. exact: real_ceil_floor. Qed.
...
 #[deprecated(since="mathcomp 2.4.0", note="Renamed to floorD1_gt.")]
 Notation lt_succ_floor := floorD1_gt.
 #[deprecated(since="mathcomp 2.4.0", note="Renamed to ceilB1_lt.")]
 Notation gt_pred_ceil := ceilB1_lt.
-#[deprecated(since="mathcomp 2.4.0", note="Renamed to ceil_ge.")]
-Notation le_ceil := ceil_ge.
```
Comment (proux01) [inline algebra/archimedean.v:891]: "removed" entry?

File: algebra/archimedean.v [hunk 10]
```diff
@@ -758,13 +743,16 @@ Notation real_lt_succ_floor := real_floorD1_gt.
 Notation real_gt_pred_ceil := real_floorD1_gt.
 #[deprecated(since="mathcomp 2.4.0", note="Renamed to real_ceil_ge.")]
 Notation real_le_ceil := real_ceil_ge.
-#[deprecated(since="mathcomp 2.4.0", note="Renamed to le_floor.")]
-Notation floor_le := le_floor.
```
Comment (proux01) [inline algebra/archimedean.v:762]: "removed" entry in changelog?

File: algebra/archimedean.v [hunk 11]
```diff
@@ -758,13 +743,16 @@ Notation real_lt_succ_floor := real_floorD1_gt.
...
-#[deprecated(since="mathcomp 2.4.0", note="Renamed to le_ceil.")]
-Notation ceil_le := le_ceil_tmp.
```
Comment (proux01) [inline algebra/archimedean.v:764]: According to our deprecation policy, we should probably keep this one a bit longer (and just redirect it to `le_ceil`)

File: algebra/archimedean.v (hunk 4 above)
Comment (pi8027) [reply algebra/archimedean.v:350]: `real_floor_ge_int` is not really "removed," but its statement has changed.

Comment (proux01) [reply algebra/archimedean.v:350]: In which case we would need a "changed" entry in the changelog? Not sure what's the best solution in this case.
Maybe "changed: lemmas `real_floor_ge_int`,... (look at renamings)"?

Comment (pi8027) [reply algebra/archimedean.v:350]: In the end, I documented the change in `04-removed`, mentioning that new lemmas have taken these names.
